US08614234B2
To a stirred mixture of N-Boc-pyrrole-2-boronic acid (114 mg, 0.54 mmol) and 4-((2-chloropyridin-4-yl)oxy)aniline (100 mg, 0.45 mmol) in 8 ml of 1,4-dioxane, was added PdCl2(PPh3)2 (10 mg, 0.014 mmol) and 1M Na2CO3 aqueous solution (0.5 ml, 1.0 mmol). The mixture was heated at 72° C. under N2 for one hour, cooled to room temperature and poured into 100 ml of water. The resulting mixture was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (50 ml), dried over Na2SO4, and evaporated to give a brown oil, which was purified by silica gel chromatography with a gradient of 20˜50% EtOAc/hexanes to give tert-butyl 2-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-1-carboxylate as colorless oil. Yield: 110 mg, 70%.

reactant | N-Boc-pyrrole-2-boronic acid | 0.54 mmol, 114 mg | C(=O)(OC(C)(C)C)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | 4-((2-chloropyridin-4-yl)oxy)aniline | 0.45 mmol, 100 mg | ClC1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C11H9ClN2O
reactant | Na2CO3 | 1.0 mmol, 1M, 0.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.014 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 2-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-1-carboxylate | NC1=CC=C(OC2=CC(=NC=C2)C=2N(C=CC2)C(=O)OC(C)(C)C)C=C1 | C20H21N3O3
